US07956216B2
4-Phenylmethylbenzoic acid was prepared according to the method of Van Herwijnen et. al., 2001. 4-Benzoylbenzoic acid (452 mg, 2 mmol), powdered NaOH (350 mg), hydrazine hydrate (0.35 mL) and tri(ethylene glycol) (15 mL) were stirred at 190° C. for four hours.

reactant | 4-Benzoylbenzoic acid | 2 mmol, 452 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
reactant | NaOH | 350 mg | [OH-].[Na+]
reactant | hydrazine hydrate | 0.35 mL | O.NN
product | 4-Phenylmethylbenzoic acid | C1(=CC=CC=C1)CC1=CC=C(C(=O)O)C=C1 | C14H12O2
